*BUF602  Wide Bandwidth Operational Transconductance Amplifier 
*****************************************************************************
* (C) Copyright 2016 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: BUF602
* Date: 16/05/2016 
* Model Type: All In One
* Simulator:PSPICE 
* Simulator Version: 16.2.0.p001
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS339B–OCTOBER 2005–REVISED MAY 2008
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : Release to Web
*
****************************************************************************************
*
*
* NOTES:
*   1- This macromodel predicts well: DC, small-signal AC, noise,
*       and transient performance under a wide range of conditions.
*   2- This macromodel does not predict well: distortion
*      (harmonic, intermod, diff. gain & phase, ...),
*      temperature effects, board parasitics, differences
*      between package styles, and process changes
*   3- For Spice3F4 users they might need to un-comment the lines for the F 
*      function and comment out the Lines for PSpice F functions
*      and subckts. First try the present netlist then comment out lines if 
*      errors appear.
*      General form:
*      FXXXXXXX N+ N- <POLY(ND)> VN1 <VN2 ...> P0 <P1 ...> <IC=...>
*      Examples:
*      F1 12 10 VCC 1MA 1.3M
*   4- For some simulators the subckt for the F statement need to be placed 
*      inside the ends statement followed by carriage return  
*   5- Simulation will show jumps in AC performance if sweeping power supply voltage at
*      V+ - V- = 4V to 4.5V and 6V to 7V as compensations switch in and out. 
*
*****************************************************************************************
*
* CONNECTIONS:

*              In
*               | Out
*               |  | Positive Supply
*               |  |  |  Negative Supply 
*               |  |  |  |   Mid Supply Reference Voltage
*               |  |  |  |    |      
.SUBCKT BUF602 IN OUT V+ V- VREF 

.PARAM x4=0.66667
.PARAM x10={x4*2.5}
.PARAM x16={x4*4}
.PARAM x8={x4*2}
.PARAM x32={x4*8}
.PARAM x64={x32*2}

R_R3         Vmid VREF  200  
Q_Q9         38 $N_0001 $N_0002 PNP6 {x32}
Q_Q10         $N_0002 $N_0001 38 NPN6 {x32}
Q_Q13         130 130 99 NPN6 {x8}
Q_Q14         131 131 99 PNP6 {x8}
Q_Q7         33 130 $N_0007 NPN6 {x32}
Q_Q8         35 131 $N_0009 PNP6 {x32}
V_V5         CM1 33 DC 0.792  
V_V6         35 CM3 DC 0.792  

*start Vmod 
*The following modifies performance vs supply voltage
*3.3V Operation
S20		30 230 V+ V- SW_NC3V
S30		330 130 V+ V- SW_NC3V
R3c		230 330 128
C3c		330 0 1.55p
S21		31 231 V+ V- SW_NC3V
S31		331 131 V+ V- SW_NC3V
R3cc		231 331 128
C3cc		331 0 1.55p
*5V Operation
S40		30 430 V+ V- SW_NO5V
S50		430 530 V+ V- SW_NC5V
R5c		530 630 247
C5c		630 0 0.5p
S60		630 730 V+ V- SW_NO5V
S70		730 130 V+ V- SW_NC5V
S41		31 431 V+ V- SW_NO5V
S51		431 531 V+ V- SW_NC5V
R5cc		531 631 247
C5cc		631 0 0.5p
S61		631 731 V+ V- SW_NO5V
S71		731 131 V+ V- SW_NC5V
*10V Operation
S80		30 830 V+ V- SW_NO10V
S90		930 130 V+ V- SW_NO10V
R10c		830 930 535
S81		31 831 V+ V- SW_NO10V
S91		931 131 V+ V- SW_NO10V
R10cc		831 931 535
*end Vmod

R_R20         37 V+  40  
G_G1         37 $N_0002 V+ CM1 0.025
G_G2         38 39 CM3 V- 0.025
R_R18         CM1 V+  40  
R_R13         26 V+  150  
R_R8         21 V+  250  
X_F1    $N_0003 $N_0004 V+ $N_0005 BUF602_Model_F1 
X_F2    $N_0006 $N_0003 V+ 4 BUF602_Model_F2 
D_D1         V+ CM1 DX 1
D_D2         V+ 37 DX 1
R_R6         $N_0008 $N_0007  30  
R_R7         $N_0009 $N_0008  30  
Q_Q11         V+ $N_0002 OUT NPN6 {x64}
Q_Q6         31 4 29 NPN6 {x10*0.4}
Q_Q3         30 +Io 21 PNP6 {x10*0.5}
Q_Q4         +Io +Io 26 PNP6 {x16*0.7}
R_R21         V- 39  40  
D_D4         39 V- DX 1
R_R12         V- 25  150  
R_R19         V- CM3  40  
Q_Q12         V- 38 OUT PNP6 {x64}
V_V1         $N_0006 V- 0.11
R_R1         V- $N_0004  1205 
X_F3    $N_0005 V- +Io V- BUF602_Model_F2 
E_E1         Vmid V- V+ V- 0.5
C_C1         V- VREF  1p  
R_R4         V- V+  100k  
D_D3         CM3 V- DX 1
R_R17         V- 29  250  
Q_Q5         4 4 25 NPN6 {x16*0.1}
Q_Q1         4 $N_0010 30 PNP6 {x4}
Q_Q2         +Io $N_0011 31 NPN6 {x4}
R_R2         $N_0008 OUT  70  
R_R10         IN 23  100  
R_R11         23 $N_0010  50  
R_R30         23 $N_0011  50  

.MODEL PNP6 PNP
+ IS = 2.015E-16 BF = 1.418E+02 NF = 1.000E+00 VAF= 5.058E+01
+ IKF= 1.085E-01 ISE= 2.233E-15 NE = 1.505E+00 BR = 3.252E+01
+ NR = 1.050E+00 VAR= 1.093E+00 IKR= 5.000E-05 ISC= 6.621E-16
+ NC = 1.150E+00 RB = 0.667E+02 IRB= 0.000E+00 RBM= 1.54e+01
+ RE = 2.537E-02 RC = 9.156E+01 CJE= 1.602E-15 VJE= 7.320E-01
+ MJE= 4.930E-01 TF = 1.303E-11 XTF= 3.500E+01 VTF= 3.259E+00
+ ITF= 2.639E-01 PTF= 0.000E+00 CJC= 2.595E-16 VJC= 7.743E-01
+ MJC= 5.000E-01 XCJC=8.504E-03 TR = 1.500E-10 CJS= 0.85E-13 
+ VJS= 9.058E-01 MJS= 4.931E-01 XTB= 1.732E+00 EG = 1.184E+00
+ XTI= 2.000E+00 KF = 3E-15 AF = 1.000E+00 FC = 8.500E-01

.MODEL NPN6 NPN
+ IS=1.60E-16 BF=157 NF=1.0 VAF=70 IKF=39.750E-3 ISE=32.190E-15 NE=2
+ BR=.7614 NR=1.0E+00 VAR=1.4520 IKR=81.720E-3 ISC=7.6180E-21 NC=1.8470
+ RE=1.22E-01 RB=1.816E+02 IRB= 0.000E+00 RBM= 1.400E+01 RC=1.972E+01
+ CJE=1.6E-15 VJE=.7591 MJE=.5406 CJC=233.80E-17 VJC=.6666
+ MJC=.4509 XCJC=8.450E-03 TR = 4.000E-11 CJS= 0.85E-13 FC=.827
+ TF=12.130E-12 XTF=2.0490 VTF=1.8130 ITF=42.930E-3 TR=40.000E-12 
+ EG=1.1840 XTB=1.0220 XTI=1.7800 KF = 3E-15 
+ AF = 1.000E+00 FC = 8.273E-01

.MODEL DX D IS=100E-15  BV=100 IBV=100E-15 RS=0.1 TT=1E-12 CJO=2E-12

.MODEL SW_NC3V VSWITCH 
+VON=4 RON=1 VOFF=4.5 ROFF=1e6 

.MODEL SW_NO5V VSWITCH 
+VOFF=4 ROFF=1e6 VON=4.5 RON=1

.MODEL SW_NC5V VSWITCH 
+VON=6 RON=1 VOFF=7 ROFF=1e6 

.MODEL SW_NO10V VSWITCH 
+VOFF=6 ROFF=1e6 VON=7 RON=1

.ENDS    BUF602

.subckt BUF602_Model_F1 1 2 3 4  
F_F1         3 4 VF_F1 1
VF_F1         1 2 0V
.ends BUF602_Model_F1

.subckt BUF602_Model_F2 1 2 3 4  
F_F2         3 4 VF_F2 10
VF_F2         1 2 0V
.ends BUF602_Model_F2
