.SUBCKT HMC799 IN OUT VCC VEE
Q1 OUT IN N001 0 NPN
Q2 OUT N001 N002 0 NPN
Q3 OUT N002 VEE 0 NPN
RC VCC OUT 50.0
RFB IN OUT 10k
CFB IN OUT 0.01pF
.model NPN NPN
.model PNP PNP
.backanno
.end